US08791134B2
1,2,2,6,6-Pentamethyl-4-nitrosopiperidin-4-yl acetate was prepared from 1,2,2,6,6-pentamethyl-piperidin-4-one oxime and lead tetraacetate using conditions of General Method 2. 1H NMR (500 MHz, CHLOROFORM-d) δ 2.43 (3H, s), 2.29-2.40 (2H, m), 2.20 (3H, s), 1.81 (2H, d, 13.9 Hz), 1.28 (6H, s), 1.23 (6H, s).

reactant | 1,2,2,6,6-pentamethyl-piperidin-4-one oxime | CN1C(CC(CC1(C)C)=NO)(C)C | C10H20N2O
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 1,2,2,6,6-Pentamethyl-4-nitrosopiperidin-4-yl acetate | C(C)(=O)OC1(CC(N(C(C1)(C)C)C)(C)C)N=O | C12H22N2O3
